US07262200B2
Preparation of 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-methoxy-[1,3,5]triazin-2-ylamino]-1,2-dihydro-indazol-3-one
(6-[4-Chloro-6-(5-cyclopropyl-2H-pyrazol-3-ylamino)-[1,3,5]triazin-2-ylamino]-1,2-dihydro-indazol-3-one (70 mg, 0.14 mmol) was dissolved in 6 ml of 0.5 M solution of sodium methoxide in methanol and stirred at room temperature for 3 hours. The reaction was neutralized to pH 6–7 with 0.5 N hydrogen chloride. The cloudy solution was concentrated in vacuo. The resulting yellow solid was suspended in water, filtered, then purified by prep HPLC to afford 7.5 mg of the desired product as a white solid (10.8% yield). H-NMR(DMSO-d6, 500 mHz) δ 10.96(s br, 1H), 9.76(s br, 1H), 7.90(s br, 1H), 7.44(d, 1H), 7.18(m, 1H), 6.02(s br, 1H) 3.85(s, 3H), 1.80(s br, 1H), 0.84(m, 2H), 0.61(s br, 2H). MS (ES+): m/e=380.1 (M+H), 378.1 (M−H); LC/Method A/3.543 min, 90.0% purity by area %.

reactant | 6-[4-Chloro-6-(5-cyclopropyl-2H-pyrazol-3-ylamino)-[1,3,5]triazin-2-ylamino]-1,2-dihydro-indazol-3-one | 0.14 mmol, 70 mg | ClC1=NC(=NC(=N1)NC=1NN=C(C1)C1CC1)NC1=CC=C2C(NNC2=C1)=O | C16H14ClN9O
reactant | hydrogen chloride | 0.5 N | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-methoxy-[1,3,5]triazin-2-ylamino]-1,2-dihydro-indazol-3-one | 7.5 mg, 10.8% yield | C1(CC1)C=1C=C(NN1)NC1=NC(=NC(=N1)OC)NC1=CC=C2C(NNC2=C1)=O | C17H17N9O2
